US07906677B2
A mixture of 2,3,4,6-tetrafluoroaniline (0.72 g, 4.4 mmol), 4-bromotoluene (0.8 g, 4.7 mmol), toluene (55 ml), sodium tert-butoxide (0.8 g, 8.3 mmol), tri-tert-butylphosphine (130 mg, 0.64 mmol) and bis-dibenzylideneacetone-palladium(0) (125 mg, 0.2 mmol) is heated under nitrogen to 85° C. for 3 h. After cooling, water (50 ml), concentrated aqu. HCl (10 ml) and hyflo (1 g) is added and stirring is continued for about one hour followed by filtration. The organic phase is washed with water twice, evaporated and the residue is subjected to flash chromatography on silica (45 g) using heptane/toluene (2:1) as the eluent to afford N-(2′,3′,4′,6′-Tetrafluorophenyl)-4-methylaniline (0.92 g, 3.6 mmol) as an oil which crystallises (mp. 64-65° C.).

reactant | 2,3,4,6-tetrafluoroaniline | 4.4 mmol, 0.72 g | FC1=C(N)C(=CC(=C1F)F)F | C6H3F4N
reactant | 4-bromotoluene | 4.7 mmol, 0.8 g | BrC1=CC=C(C=C1)C | C7H7Br
reactant | sodium tert-butoxide | 8.3 mmol, 0.8 g | CC(C)([O-])C.[Na+]
reactant | tri-tert-butylphosphine | 0.64 mmol, 130 mg | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
solvent | toluene | 55 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2′,3′,4′,6′-Tetrafluorophenyl)-4-methylaniline | 3.6 mmol, 0.92 g | FC1=C(C(=CC(=C1F)F)F)NC1=CC=C(C=C1)C | C13H9F4N
